US07332614B2
Preparation of 1-[(3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid
To a solution of i-PrMgCl in THF (10 mL, 20 mmol) was added 2-bromopyridine (1.93 g, 20.2 mmol) at room temperature in one portion. The mixture was stirred at 35° C. for 0.5 h. To the deep-red solution was added ZnBr2 (2.477 g, 11 mmol) under argon and the resulting mixture was stirred at 70° C. for 0.5 h to brown-red solution. 1-Methyl-2-pyrrolidinone (20 mL) was added and the mixture was stirred at 70° C. for 10 minutes. Palladium acetate (11.2 mg, 0.05 mmol), triphenylphosphine (52.5 mg, 0.20 mmol) and 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid (2.097 g, 5 mmol) were added. The mixture was stirred at 90° C. for 6 h. Saturated ammonium chloride (20 mL) and THF (20 mL) were added. The pH of the mixture was adjusted to 4-5 using 4 HCl (˜3 mL) and the mixture was stirred at 60° C. for 5 minutes. The aqueous layer was separated and extracted with isopropyl acetate (20 mL) at 60° C. The combined organic phases were combined and washed with a mixture of saturated ammonium chloride (10 mL) and water (10 mL) at 60° C. The organic layer was extracted with 4 N HCl (10 and 5 mL). To the combined extracts cooled in an ice-water bath was slowly added 50% NaOH (5.60 g, 70 mmol). The mixture was heated to reflux until the internal temperature reached 89-90° C. The mixture was cooled to 60° C. and n-propanol (10 mL) was added. While stirring, acetic acid (1.14 mL, 20 mmol) was added to adjust the pH to 5-6. The resulting white suspension was stirred at 60° C. for 1 h and allowed to cool to room temperature (@200° C.). The white precipitate was collected by filtration and the wet cake was rinsed with 2:1 water/n-propanol (15 mL) and water (50 mL). The solid was dried under vacuum to provide the title compound (1.65 g, 79%).

reactant | i-PrMgCl | C(C)(C)[Mg]Cl
reactant | 2-bromopyridine | 20.2 mmol, 1.93 g | BrC1=NC=CC=C1 | C5H4BrN
reactant | 1-[(2-bromo-3-cyclopentyl-1-methyl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid | 5 mmol, 2.097 g | BrC=1N(C2=CC(=CC=C2C1C1CCCC1)C(=O)NC1(CCC1)C(=O)O)C | C20H23BrN2O3
reactant | ammonium chloride | 20 mL | [Cl-].[NH4+]
reactant | HCl | ˜3 mL | Cl | ClH
reactant | NaOH | 70 mmol, 5.60 g | [OH-].[Na+]
reactant | acetic acid | 20 mmol, 1.14 mL | C(C)(=O)O | C2H4O2
catalyst | ZnBr2 | 11 mmol, 2.477 g | [Zn+2].[Br-].[Br-]
catalyst | Palladium acetate | 0.05 mmol, 11.2 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
catalyst | triphenylphosphine | 0.20 mmol, 52.5 mg | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
solvent | n-propanol | 10 mL | C(CC)O | C3H8O
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | 1-Methyl-2-pyrrolidinone | 20 mL | CN1C(CCC1)=O | C5H9NO
solvent | THF | 20 mmol, 10 mL | C1CCOC1 | C4H8O
product | 1-[(3-cyclopentyl-1-methyl-2-pyridin-2-yl-1H-indole-6-carbonyl)-amino]-cyclobutanecarboxylic acid | 1.65 g, 79% | C1(CCCC1)C1=C(N(C2=CC(=CC=C12)C(=O)NC1(CCC1)C(=O)O)C)C1=NC=CC=C1 | C25H27N3O3
